US05081123
a. 8-Acetyl-1,2,3,4-tetrahydro-5 -methoxy-6-nitronaphthalene
A solution of 100% nitric acid (0.42 ml, 10 mmol) in 2 ml of acetic anhydride was added dropwise with stirring at -10° to -15° C. to a solution of 8-acetyl-1,2,3,4-tetrahydro-5-methoxynaphthalene (2.1 g, 10 mmol) in 25 ml of acetic anhydride containing one drop of conc. sulfuric acid. Stirring was continued for 20 min. at the same temperature, then the reaction mixture was poured into 100 ml of ice-water. The precipitated crystals were collected by filtration and washed with water and a small amount of cold ethanol to give 1.48 g (59%) of the title compound. M.p. 76°-77° C.; 1H-NMR (CDCl3): 1.60-1.93 (m, 4H, 2CH2), 2.57 (s, 3H, COCH3), 2.67-3.13 (m, 4H, 2CH2), 3.88 (s, 3H, OCH3), 7.97 (s, 1H, H-7).

reactant | nitric acid | 10 mmol, 0.42 ml | [N+](=O)(O)[O-] | HNO3
reactant | 8-acetyl-1,2,3,4-tetrahydro-5-methoxynaphthalene | 10 mmol, 2.1 g | C(C)(=O)C=1C=CC(=C2CCCCC12)OC | C13H16O2
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
solvent | acetic anhydride | 2 ml | C(C)(=O)OC(C)=O | C4H6O3
catalyst | acetic anhydride | 25 ml | C(C)(=O)OC(C)=O | C4H6O3
product | 8-Acetyl-1,2,3,4-tetrahydro-5 -methoxy-6-nitronaphthalene | 1.48 g, 59% | C(C)(=O)C=1C=C(C(=C2CCCCC12)OC)[N+](=O)[O-] | C13H15NO4
